US06583135B2
tert-Butyl 6-[2-(phenylsulfonyl)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.139 g, 0.306 mmol) was treated with trifluoroacetic acid (1 mL) for 5 min. CH2Cl2 was added and the reaction mixture was concentrated to dryness. The salt was partitioned between CH2Cl2 and a mixture of 1M KOH and brine. The organic layer was dried over MgSO4, filtered and concentrated. The crude product was chromatographed (SiO2, eluted with 1:1 EtOAc:hexane) to give 6-[2-(phenylsulfonyl)ethyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.0123 g) as a white solid. 1H NMR (300 MHz, CD3OD) δ 3.13, 3.29-3.33, 3.42, 3.50, 3.71, 4.65, 7.07, 7.14, 7.22, 7.42, 7.51, 7.66, 7.70.

reactant | tert-Butyl 6-[2-(phenylsulfonyl)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.306 mmol, 0.139 g | C1(=CC=CC=C1)S(=O)(=O)CCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C25H30N2O4S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-[2-(phenylsulfonyl)ethyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.0123 g | C1(=CC=CC=C1)S(=O)(=O)CCN1C2=C(C=3C=CC=CC13)CCNCC2 | C20H22N2O2S
